### PR TITLE
[Merged by Bors] - feat: a locally closed subgroup is closed

### PR DESCRIPTION
**Pull request by ADedecker**
We show that, in a topological group, a subgroup which is locally closed at one of its points is closed. We use this to reprove the fact that a discrete subgroup of a Hausdorff group is closed, without appealing to the theory of uniform spaces.

Notes about `Topology/Algebra/IsUniformGroup/DiscreteSubgroup`:
* it no longer requires the theory of uniform spaces, hence should be moved
* the import increase comes, I believe, from the fact that `Topology/Algebra/OpenSubgroup` imports the basic theory of topological rings, which should be fixed.

---

- [x] depends on: #43387 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/LocallyClosed.lean [hunk 1]
```diff
@@ -240,15 +240,15 @@ lemma isLocallyClosedAt_iff_exists_eq_inter_closure_of_hasBasis {ι : Type*} {p
     inter_eq_inter_mono_left h U_sub_V
```
Comment (ADedecker) [inline Mathlib/Topology/LocallyClosed.lean:240]: splice-bot

File: Mathlib/Topology/DiscreteSubset.lean [hunk 2]
```diff
@@ -8,6 +8,7 @@ module
 public import Mathlib.Tactic.TautoSet
```
Comment (ADedecker) [inline Mathlib/Topology/DiscreteSubset.lean:8]: splice-bot

File: Mathlib/Algebra/Module/ZLattice/Summable.lean [hunk 3]
```diff
@@ -240,8 +240,7 @@ lemma summable_norm_sub_rpow (r : ℝ) (hr : r < -Module.finrank ℤ L) (x : E)
   · exact .of_finite
   refine Summable.of_norm_bounded_eventually
     (.mul_left ((1 / 2) ^ r) (summable_norm_rpow L r hr)) ?_
-  have H : IsClosed (X := E) L := @AddSubgroup.isClosed_of_discrete _ _ _ _ _
-    L.toAddSubgroup (inferInstanceAs (DiscreteTopology L))
+  have H : IsClosed (X := E) L := L.toAddSubgroup.isClosed_of_discreteTopology
```
Comment (ADedecker) [inline Mathlib/Algebra/Module/ZLattice/Summable.lean:243]: For the record, I checked that this worked without the `set_option` at the beginning of the proof (though the proof does break down later for an unrelated reason).

File: Mathlib/Topology/Algebra/OpenSubgroup.lean [hunk 4]
```diff
@@ -309,6 +310,80 @@ instance [IsTopologicalGroup G] [CompactSpace G] (U : OpenSubgroup G) (K : OpenS
...
+  U.isClosed_of_isDiscrete <| isDiscrete_iff_discreteTopology.mpr ‹_›
+
+@[to_additive (attr := deprecated (since := "2026-09-01"))]
+alias isClosed_of_discrete := isClosed_of_discreteTopology
+
+open Filter in
+@[to_additive]
+lemma tendsto_coe_cofinite_of_isDiscrete [T1Space G] (H : Subgroup G)
+    (hH : IsDiscrete (H : Set G)) : Tendsto ((↑) : H → G) cofinite (cocompact _) :=
+  IsClosed.tendsto_coe_cofinite_of_isDiscrete (H.isClosed_of_isDiscrete hH) hH
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/OpenSubgroup.lean]:
```suggestion
  (H.isClosed_of_isDiscrete hH).tendsto_coe_cofinite_of_isDiscrete hH
```

File: Mathlib/Topology/Algebra/OpenSubgroup.lean [hunk 5]
```diff
@@ -309,6 +310,80 @@ instance [IsTopologicalGroup G] [CompactSpace G] (U : OpenSubgroup G) (K : OpenS
...
+
+variable [IsTopologicalGroup G]
+
+open Topology in
+@[to_additive]
+lemma isClosed_of_isLocallyClosed (U : Subgroup G)
+    (h : IsLocallyClosed (U : Set G)) :
+    IsClosed (U : Set G) := by
+  -- Since `U` is locally closed, it is open, hence closed, in the closed subgroup
+  -- `U.topologicalClosure`. Hence it is closed in `G`.
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/OpenSubgroup.lean]: this doesn't read great, it sounds confusing when you first read it

Comment (j-loreaux) [reply Mathlib/Topology/Algebra/OpenSubgroup.lean]: I think all it needs is:

```suggestion
  -- Since `U` is locally closed, it is open, hence closed in the closed subgroup
  -- `U.topologicalClosure`. Hence it is closed in `G`.
```

**Review by j-loreaux — COMMENTED** [review]
Looks nice, thanks!

bors d+

**Comment by ADedecker** [comment]
Thanks for the review!

bors merge

**Comment by ADedecker** [comment]
bors retry
